US07238808B2
5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.5) (73 mg, 0.25 mmol) and 5-bromo-2,4-difluoro-benzenesulfonamide (68 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (91 mg, 75%). MS (ISP) 485.1 [(M+H)+]; mp 272–275° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 73 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#C | C17H12ClN3
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 0.25 mmol, 68 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#CC=2C(=CC(=C(C2)S(=O)(=O)N)F)F | C23H15ClF2N4O2S
